US04058559
Step (C) 5[(4-Benzoyl)-2,3-dichlorophenoxymethyl]-tetrazole
A mixture of 30.60 g. (0.1 mole) of 4-benzoyl-2,3-dichlorophenoxyacetonitrile, 7.80 g. (0.12 mole) of NaN3 and 15.96 g. (0.12 mole) of AlCl3 in 100 ml. of THF was refluxed for 24 hours. The reaction mixture was cooled and poured in dilute HCl. The solid obtained was filtered and recrystallized from benzene. Yield 26.80 g. (75%); m.p. 184°-186°.

reactant | 4-benzoyl-2,3-dichlorophenoxyacetonitrile | 0.1 mole | C(C1=CC=CC=C1)(=O)C1=C(C(=C(OCC#N)C=C1)Cl)Cl | C15H9Cl2NO2
reactant | NaN3 | 0.12 mole | [N-]=[N+]=[N-].[Na+]
reactant | AlCl3 | 0.12 mole | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | THF | C1CCOC1 | C4H8O
solvent | HCl | Cl | ClH
product | 5[(4-Benzoyl)-2,3-dichlorophenoxymethyl]-tetrazole | C(C1=CC=CC=C1)(=O)C1=C(C(=C(OCC2=NN=NN2)C=C1)Cl)Cl | C15H10Cl2N4O2
